US04902698
(e) 4-(5-Benzenesulphonamidopyrid-2-yl)butanoic acid
A solution of methyl 4-(5-benzenesulphonamidopyrid-2-yl)-butanoate (1.3 g, 4.2 mmole) in ethanol (25 ml) and 10% w/v sodium hydroxide solution (10 ml) was stirred for 1 hour. The solution was treated with hydrochloric acid and the precipitate was collected by filtration.

reactant | methyl 4-(5-benzenesulphonamidopyrid-2-yl)-butanoate | 4.2 mmole, 1.3 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=CC(=NC1)CCCC(=O)OC | C16H18N2O4S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(5-Benzenesulphonamidopyrid-2-yl)butanoic acid | C1(=CC=CC=C1)S(=O)(=O)NC=1C=CC(=NC1)CCCC(=O)O | C15H16N2O4S
